US07056914B2
To a solution of 4-phenoxyaniline (1.85 g, 10 mmoles) and triethylamine (2.07 ml, 15 mmoles) in 25 ml dry dichloromethane, is added stepwise a solution of chloroacetyl chloride (1.18 g, 10.5 mmoles) in 10 ml dry dichloromethane. The resulting reaction mixture is stirred for 1 hour at room temperature. Afterwards said reaction mixture is washed with 2×30 ml HCl (2 N) 1×30 ml water, dried with sodium sulfate and the solvent evaporated. 2.48 g. (Yield 95%) of 2-chloro-N-(4-phenoxyphenyl)acetamide were obtained.

reactant | 4-phenoxyaniline | 10 mmoles, 1.85 g | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
reactant | triethylamine | 15 mmoles, 2.07 ml | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 10.5 mmoles, 1.18 g | ClCC(=O)Cl | C2H2Cl2O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-chloro-N-(4-phenoxyphenyl)acetamide | Yield 95% | ClCC(=O)NC1=CC=C(C=C1)OC1=CC=CC=C1 | C14H12ClNO2
